US08426447B2
A vial charged with (S)-2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (0.200 g, 0.572 mmol) and potassium carbonate (0.087 g, 0.630 mmol) was treated with 2 mL DMF and was allowed to stir for 15 minutes. The reaction mixture was cooled to 0° C. and n-phenyltriflamide (0.245 g, 0.630 mmol) was added. After stirring for one hour the reaction mixture was poured into water and extracted with EtOAc. The organics were dried over MgSO4 and concentrated. Purification of the crude residue by column chromatography gave (S)-2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (0.183 g, 0.380 mmol, 66.4% yield)

reactant | (S)-2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 0.572 mmol, 0.200 g | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)C)O | C20H19N3O3
reactant | potassium carbonate | 0.630 mmol, 0.087 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | n-phenyltriflamide | 0.630 mmol, 0.245 g | C1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
solvent | water | O | H2O
product | (S)-2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.380 mmol, 0.183 g, 66.4% yield | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C#CC(C)(C)C)(F)F | C21H18F3N3O5S
